### PR TITLE
fix(NormNum): error if remaining at locations are unused

### LINKED ISSUE #28703: regression: if `norm_num at h1` closes a goal then `norm_num at h1 h2` fails
(Originally noted in https://github.com/leanprover-community/mathlib4/pull/27562#issuecomment-3206051728).

The following proofs worked before #27562 and are broken after it:
```lean
import Mathlib.Tactic

example (h : 0 = 1) (h2 : 0 = 2) : False := by
  norm_num at h h2 -- error: No goals to be solved

-- slightly more realistic example
example {x : Nat} (hx : x < 2) (h : x = 1) (h2 : x = 2) : False := by
  interval_cases x <;> norm_num at h h2 -- error: No goals to be solved
```

It seems that if norm_num at h succeeds in closing the proof, then norm_num at h h2 is now an error.

I expect `norm_num at` to work the same as `simp at`. The following continues to work without error:

```lean
import Mathlib.Tactic

example (h : 0 = 1) (h2 : 0 = 2) : False := by
  simp at h h2

-- slightly more realistic example
example {x : Nat} (hx : x < 2) (h : x = 1) (h2 : x = 2) : False := by
  interval_cases x <;> simp at h h2
```

### PR DESCRIPTION
**Pull request by sankalpsthakur**
`norm_num at h1 h2 ...` (and other tactics built on `Lean.Elab.Tactic.withNondepPropLocation`) unconditionally processed every hypothesis in the location list, then the target. If an earlier hypothesis closed the goal (e.g. `norm_num` found `h1` to already be `False`), processing continued against an already-closed goal instead of stopping.

Unused `at` locations now error if an earlier location closed the goal.

Closes #28703.

---------

Note. `withNondepPropLocation` currently has no other callers in the Mathlib tree besides its own definition file.

AI coding tools were used to help draft this change and PR description. I reviewed the complete change, understand the reasoning, and verified the build locally before submitting.

### CODE REVIEW

File: lake-manifest.json [hunk 1]
```diff
@@ -65,7 +65,7 @@
    "type": "git",
    "subDir": null,
    "scope": "leanprover-community",
-   "rev": "0ecf8993df88c044962426c2cbca0de5717d6150",
+   "rev": "2963c249dabd57512a2e101901777e381eb40350",
```
Comment (grunweg) [inline lake-manifest.json]: Please revert this change - it is unrelated (and not necessary) for this PR. Thanks!

File: MathlibTest/Tactic/NormNum/Basic.lean [hunk 2]
```diff
@@ -754,3 +754,7 @@ theorem large1 {α} [Ring α] : 2^(2^2000) + (2*2) - 2^(2^2000) = (4 : α) := by
   set_option exponentiation.threshold 20 in
     norm_num1 -- TODO: this should warn, but the warning is discarded
   simp only [add_sub_cancel_left]
+
+-- Regression test for https://github.com/leanprover-community/mathlib4/issues/28703.
```
Comment (grunweg) [inline MathlibTest/Tactic/NormNum/Basic.lean:760]: Can you also add a brief comment what this verifies? One sentence can be enough.

File: Mathlib/Util/AtLocation.lean [hunk 3]
```diff
@@ -35,8 +35,10 @@ def Lean.Elab.Tactic.withNondepPropLocation (loc : Location) (atLocal : FVarId 
     (atTarget : TacticM Unit) (failed : MVarId → TacticM Unit) : TacticM Unit := do
   match loc with
   | Location.targets hyps target => do
-    (← getFVarIds hyps).forM atLocal
-    if target then atTarget
+    for fvarId in ← getFVarIds hyps do
```
Comment (grunweg) [inline Mathlib/Util/AtLocation.lean:38]: This change will also affect other tactics, right? Can you also add regression tests for them, please?

**Review by grunweg — COMMENTED** [review]
Thanks for the PR! I have reworded the PR description (as it contained quite a bit of superfluous information, and not all of it belongs into the final commit message), and took a first look. See my comments below.

File: lake-manifest.json (hunk 1 above)
Comment (sankalpsthakur) [reply lake-manifest.json]: Reverted, `lake-manifest.json` no longer appears in the diff (now: `Mathlib/Util/AtLocation.lean`, `MathlibTest/Tactic/AtLocation.lean`, `MathlibTest/Tactic/NormNum/Basic.lean` only).

File: MathlibTest/Tactic/NormNum/Basic.lean (hunk 2 above)
Comment (sankalpsthakur) [reply MathlibTest/Tactic/NormNum/Basic.lean:760]: Done, the test now states it verifies that when `norm_num` closes the goal on a contradictory first hypothesis, later locations in the same list are skipped instead of erroring.

File: Mathlib/Util/AtLocation.lean (hunk 3 above)
Comment (sankalpsthakur) [reply Mathlib/Util/AtLocation.lean:38]: You are right that it affects every user of `withNondepPropLocation`. I audited all callers of its wrapper `transformAtNondepPropLocation`: only `norm_num` and `reduce_mod_char` use it. `reduce_mod_char` normalizes hypotheses rather than closing goals on contradictory ones (its own tests follow with `assumption`), so the empty-goal break cannot fire there; I added a multi-hypothesis + target regression for it in `MathlibTest/Tactic/AtLocation.lean` (9c1da3cc), and the `norm_num` case covers the empty-goal path.

**Comment by sankalpsthakur** [comment]
-awaiting-author

**Comment by grunweg** [comment]
By the way, with my moderator hat on: your response to my review comments read AI-generated. Per [the AI guidelines here](https://leanprover-community.github.io/contribute/#use-of-ai), it is **not** allowed to use AI for comments on Github or Zulip. Please don't do so in the future. (Otherwise, we may have to hide your comments, close your PR or suspend you on Zulip.) This is an official warning.

File: MathlibTest/Tactic/NormNum/Basic.lean [hunk 4]
```diff
@@ -754,3 +754,9 @@ theorem large1 {α} [Ring α] : 2^(2^2000) + (2*2) - 2^(2^2000) = (4 : α) := by
   set_option exponentiation.threshold 20 in
     norm_num1 -- TODO: this should warn, but the warning is discarded
   simp only [add_sub_cancel_left]
+
+-- Verifies that when `norm_num` closes the goal upon reaching a contradictory
+-- hypothesis, later locations in the same list are skipped instead of erroring.
```
Comment (grunweg) [inline MathlibTest/Tactic/NormNum/Basic.lean]:
```suggestion
-- When `norm_num` closes the goal upon reaching a contradictory hypothesis,
-- later locations in the same list are skipped instead of erroring.
```

File: MathlibTest/Tactic/AtLocation.lean [hunk 5]
```diff
@@ -0,0 +1,14 @@
+import Mathlib.Tactic.NormNum
+import Mathlib.Tactic.ReduceModChar
+
+-- A contradiction found in the first listed hypothesis must stop `norm_num`
```
Comment (grunweg) [inline MathlibTest/Tactic/AtLocation.lean]: This is literally the same test as for norm_num above. Having it once suffices; please remove this copy.

File: MathlibTest/Tactic/AtLocation.lean [hunk 6]
```diff
@@ -0,0 +1,14 @@
...
+-- before it tries to process later locations on the already-closed goal.
+example (h : 0 = 1) (_h2 : 0 = 2) : False := by
+  norm_num at h _h2
+
+-- `reduce_mod_char` uses the same location helper. It normalizes hypotheses
```
Comment (grunweg) [inline MathlibTest/Tactic/AtLocation.lean]: Can you move this to the `reduce_mod_char` tests instead (and reword the comment to be understandable in that context)?

**Comment by grunweg** [comment]
Left a few more comments. Also, can you fix the test failure, please?
awaiting-author

File: MathlibTest/Tactic/NormNum/Basic.lean (hunk 4 above)
Comment (sankalpsthakur) [reply MathlibTest/Tactic/NormNum/Basic.lean]: Applied the comment wording in NormNum/Basic.

File: MathlibTest/Tactic/AtLocation.lean (hunk 5 above)
Comment (sankalpsthakur) [reply MathlibTest/Tactic/AtLocation.lean]: Removed the duplicate AtLocation file.

File: MathlibTest/Tactic/AtLocation.lean (hunk 6 above)
Comment (sankalpsthakur) [reply MathlibTest/Tactic/AtLocation.lean]: Moved that coverage into the reduce_mod_char tests.

**Comment by sankalpsthakur** [comment]
-awaiting-author

**Comment by sankalpsthakur** [comment]
Merged master. Kept the early-exit on explicit locations; kept the withLocation wildcard from the AtLocation refactor.

**Comment by thorimur** [comment]
Thanks for this PR! :) 

I am a bit concerned about working around this `withLocation` behavior downstream here in Mathlib, both because it diverges from upstream in a manner not provided for by its role (this doesn't have to do with nondep prop hypotheses) and because I'm skeptical that this is in fact the right solution to the underlying problem.

I think one or both of the following is true:

- we should simply guard against this in `withLocation` in core somehow
- `norm_num at h1 h2` *should* fail if `at h1` closes the goal, because we never get the chance to run it at `h2`. I think the behavior is more mysterious if we're allowed to insert unused `at`s.

If writing macros or such is the issue, then we ought to have a config option for that case; if the error is mysterious, `withLocation` ought to have a better error in this case.

I'll bring this up on the issue proper.

I'm quite sorry for commenting in this direction! 😅 I really do appreciate the work you've done here, I just want to make sure that the resulting behavior is correct. :)
